US06093718
2,4-Dimethyl-6-hydroxypyrimidine (20 g) was added to phosphorus oxychloride (120 ml) and the mixture was refluxed for 2 hours. Excess phosphorus oxychloride was removed in vacuo, water was added and the product was extracted into dichloromethane (2×200 ml), dried (Na2SO4) and the solvent removed to give 2,6-dimethyl-4-chloropyrimidine as an oil (21 g) which slowly crystallised on standing; NMR (CDCl3): 2.52 (s, 3H), 2.71 (s, 3H), 7.05 (s, 1H).

reactant | 2,4-Dimethyl-6-hydroxypyrimidine | 20 g | CC1=NC(=CC(=N1)C)O | C6H8N2O
reactant | phosphorus oxychloride | 120 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,6-dimethyl-4-chloropyrimidine | 21 g | CC1=NC(=CC(=N1)Cl)C | C6H7ClN2
